US05397798
A. N-[3-(1H-Tetrazol-2-yl)propyl]-2-nitrobenzamide
A solution of 24.5 g (0.085 mol) of N-(3-bromopropyl)-2-nitrobenzamide in 75 ml of dimethylformamide was slowly added to a solution of 7.00 g (0.10 mol) of tetrazole. The resulting solution was heated to 50° C. and allowed to react overnight. When the reaction was complete, as determined by thin layer chromatography, most of the dimethylformamide was removed under reduced pressure. The resultant residue was diluted with water, causing a precipitate to form. The precipitate was isolated by filtration and dried under vacuum. Thin layer chromatography and nuclear magnetic resonance spectroscopy indicated the presence of two isomers; namely, the N-1 and N-2 alkylated tetrazoles (75:25 ). The N-2 alkylated compound was isolated by column chromatography to provide 4.3 g of the desired subtitled intermediate. The N-1 alkylated compound was isolated by twice crystallizing the precipitate from cyanomethane to provide 3.72 g of that compound. (m.p. 148°-150° C.).

reactant | N-(3-bromopropyl)-2-nitrobenzamide | 0.085 mol, 24.5 g | BrCCCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C10H11BrN2O3
reactant | tetrazole | 0.10 mol, 7.00 g | N1N=NN=C1 | CH2N4
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N-[3-(1H-Tetrazol-2-yl)propyl]-2-nitrobenzamide | 4.3 g | N1N(NN=C1)CCCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C11H14N6O3
